US04689349
Zinc (3 g) is added to a stirred solution of 6,6-dichloro-2(5-methoxyhept-1-yl)bicyclo[3.2.0]heptan-7-one {7,7-dichloro-4(5-methoxyheptyl)bicyclo[3.2.0]heptan-6-one} (2 g, 6 moles) in acetic acid (100 ml) under a nitrogen atmosphere. The solution is stirred at room temperature for one hour, then refluxed for 13 hours, after which time the mixture is filtered through a sintered glass funnel and the ether solution dried over anhydrous sodium sulfate. The solvent is removed under vacuum, leaving the crude product. Chromatography on silica gel yields 2-(5-methoxyhept-1-yl)bicyclo[3.2.0]heptan-7-one {4-(5-methoxyheptyl) bicyclo[3.2.0]heptan-6-one} (1.2 g).

reactant | 6,6-dichloro-2(5-methoxyhept-1-yl)bicyclo[3.2.0]heptan-7-one | ClC1(C2CCC(C2C1=O)CCCCC(CC)OC)Cl | C15H24Cl2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 3 g | [Zn] | Zn
product | 2-(5-methoxyhept-1-yl)bicyclo[3.2.0]heptan-7-one | COC(CCCCC1C2C(CC2CC1)=O)CC | C15H26O2
